US04910019
To a stirred solution of 2-(2-hydroxyethyl)naphthalene (50 mmol, 8.60 g) in dichloromethane (400 ml) at 0° C. was added Dess-Martin periodinate (50 mmol, 21.2 g) [J. Org. Chem. 48 4155 (1983)] in one portion. The solution was stirred at 0° C. for 10 mintes and at room temperature for 45 minutes. The reaction mixture was diluted with dichloromethane (400 ml) and sodium bicarbonate (1.0 L) containing sodium thiosulfate (55 g). The mixture was shaken for five minutes and the layers separated. The aqueous phase was extracted with dichloromethane (800 ml) and the combined organic solutions were washed with saturated sodium bicarbonate (800 ml), dried over sodium sulfate and concentrated in vacuo to provide naphthalen-2-ylacetaldehyde.

reactant | 2-(2-hydroxyethyl)naphthalene | 50 mmol, 8.60 g | OCCC1=CC2=CC=CC=C2C=C1 | C12H12O
reactant | Dess-Martin | 50 mmol, 21.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | 55 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 1.0 L | C([O-])(O)=O.[Na+]
product | naphthalen-2-ylacetaldehyde | C1=C(C=CC2=CC=CC=C12)CC=O | C12H10O
